US08492397B2
To a solution of 1,1,1-trifluoro-2-methylpropan-2-ol (1.0 g) in THF (30 ml) was added a 2M solution of n-butyl lithium in n-hexane (3.9 ml) and then 4-nitrophenyl chloroformate (2.4 g) at −75° C. The mixture was warmed to room temperature and diluted with ethyl acetate, washed with water, dried over sodium sulfate, and filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (0-50% EtOAc/Hexane) to give 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-yl carbonate as a pale yellow oil.

reactant | 1,1,1-trifluoro-2-methylpropan-2-ol | 1.0 g | FC(C(C)(O)C)(F)F | C4H7F3O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-nitrophenyl chloroformate | 2.4 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 3.9 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-yl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC(C(F)(F)F)(C)C)=O | C11H10F3NO5
